US06310245B1
Methyl 2,4-dichloro-3-(N-methoxy)aminocarbonylbenzoate (compound 3.01)
20 4.60 g (0.045 mol) of triethylamine and 3.75 g (0.045 mol) of methoxyamine hydrochloride were added to a solution of 5.35 g (0.02 mol) of methyl 3-chlorocarbonyl-2,4-dichlorobenzoate and in 100 ml of dichloromethane. After the reaction solution had been stirred for 12 hours at room temperature, it was washed with dilute phosphoric acid, dried and concentrated. The resulting residue was extracted by stirring with diethyl ether. This gave 4.80 g of methyl 2,4-dichloro-3-(N-methoxy)aminocarbonylbenzoate.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methoxyamine hydrochloride | 0.045 mol, 3.75 g | Cl.CON
reactant | methyl 3-chlorocarbonyl-2,4-dichlorobenzoate | 0.02 mol, 5.35 g | ClC(=O)C=1C(=C(C(=O)OC)C=CC1Cl)Cl | C9H5Cl3O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Methyl 2,4-dichloro-3-(N-methoxy)aminocarbonylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1C(=O)NOC)Cl | C10H9Cl2NO4
